US04131674
n-Butyl isocyanate (11.2 cc.) is added over the course of 15 minutes to a suspension of 5-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one (3.5 g.) in acetonitrile (350 cc.) and triethylamine (0.2 cc.) heated at the reflux temperature. Pyridine (10 cc.) and triethylamine (5 cc.) are added and refluxing is continued for a further 40 minutes. After filtering hot and then cooling, the precipitate formed is filtered off and recrystallised from acetonitrile (250 cc.) to give 5-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-n-butylaminocarbonyloxy-isoindolin-1-one (3.3 g.) melting at 228°-230° C.

reactant | n-Butyl isocyanate | 11.2 cc | C(CCC)N=C=O | C5H9NO
reactant | 5-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one | 3.5 g | ClC=1C=C2C(N(C(C2=CC1)=O)C1=NC2=NC(=CC=C2C=C1)Cl)O | C16H9Cl2N3O2
reactant | Pyridine | 10 cc | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 350 cc | C(C)#N | C2H3N
solvent | triethylamine | 0.2 cc | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 5 cc | C(C)N(CC)CC | C6H15N
product | 5-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-n-butylaminocarbonyloxy-isoindolin-1-one | 3.3 g | ClC=1C=C2C(N(C(C2=CC1)=O)C1=NC2=NC(=CC=C2C=C1)Cl)OC(=O)NCCCC | C21H18Cl2N4O3
